US05240925
a. Preparation of 2-(2,4-Dichlorophenyl)-5-(1-piperidinyl)valeronitrile
This intermediate (10 g.) was prepared using the procedure described in Example 14a except using 10.0 g. (0.054 mole) of 2,4-dichlorobenzyl cyanide, 11.0 g. (0.054 mole) of 1-(3-chloropropyl)piperidine hydrochloride, 11.0 g. (0.135 mole) of 50% aqueous sodium hydroxide, and 50 ml. of DMSO.

reactant | 2,4-dichlorobenzyl cyanide | 0.054 mole | ClC1=C(CC#N)C=CC(=C1)Cl | C8H5Cl2N
reactant | 1-(3-chloropropyl)piperidine hydrochloride | 0.054 mole | Cl.ClCCCN1CCCCC1
reactant | sodium hydroxide | 0.135 mole | [OH-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(2,4-Dichlorophenyl)-5-(1-piperidinyl)valeronitrile | ClC1=C(C=CC(=C1)Cl)C(C#N)CCCN1CCCCC1 | C16H20Cl2N2
